US04851588
Into a 250 ml round bottom flask equipped with a stir bar, thermometer and reflux condensor topped with a nitrogen inlet was added 5.73 g (0.03 mole) of 2,2-dimethyl-5-hydroxymethyl-5-nitro-1,3-dioxane and 70 ml 10% sodium hydroxide which was heated to 60° C. for one hour. The solution was cooled to 5° C. and at this temperature acidified to pH 5 with concentrated acetic acid. The precipitated solid was filtered off and dried to give 5.2 g (92%) of 2,2-dimethyl-5-nitro-1,3-dioxane m.p. 60°-61° C. 1H NMR in CD3OD also confirmed the structure.

reactant | 2,2-dimethyl-5-hydroxymethyl-5-nitro-1,3-dioxane | 0.03 mole, 5.73 g | CC1(OCC(CO1)([N+](=O)[O-])CO)C | C7H13NO5
reactant | sodium hydroxide | 70 ml | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,2-dimethyl-5-nitro-1,3-dioxane | 5.2 g, 92% | CC1(OCC(CO1)[N+](=O)[O-])C | C6H11NO4
